US07501410B2
(1-Bromo-3-isopropyl-4-oxo-3,4-dihydro-phthalazin-6-yl)-carbamic acid tert-butyl ester:
7-Amino-2-isopropyl-4-bromo-2H-phthalazin-1-one (1.88 g, 6.7 mmol) was dissolved in DMF (20 ml). To this was added NaH (60%, 0.8 g, 20.1 mmol) as a suspension in DMF (5 ml). The mixture was stirred at RT for 30 min then Boc2O (4.36 g, 20.1 mmol) was added in one portion as a solution in DMF (5 ml) and the reaction mixture was heated to 70° C. for 3 hours. After this time, the reaction mixture was cooled to RT and water (20 ml) was added cautiously, the mixture was extracted with EtOAc (3×50 ml), the organic layers were combined, dried (MgSO4), filtered and concentrated under vacuum. The residue was dissolved in a 1:1 mixture of THF/EtOH (10 ml) and aqueous NaOH (50% by weight solution, 10 ml) was added in one portion, the reaction mixture was stirred vigorously for 30 min. After this time, the mixture was partitioned between water (20 ml) and EtOAc (50 ml). The organic layer was dried (MgSO4), filtered and concentrated to give the title compound (2.2 g, 88% yield) as a light brown solid. δH (400 MHz, DMSO), 8.32 (1H, d), 8.19 (1H, s), 7.88 (1 H, d), 7.41 (1H, s), 5.46-5.31 (1H, m), 1.52 (9H, s), 1.41 (6H, d) Tr=1.73 min, m/z (ES+) (M+H)+ 382.22.

reactant | 7-Amino-2-isopropyl-4-bromo-2H-phthalazin-1-one | 6.7 mmol, 1.88 g | NC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C11H12BrN3O
reactant | NaH | 20.1 mmol, 0.8 g | [H-].[Na+]
reactant | Boc2O | 20.1 mmol, 4.36 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 20 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (1-Bromo-3-isopropyl-4-oxo-3,4-dihydro-phthalazin-6-yl)-carbamic acid tert-butyl ester | 2.2 g, 88% yield | C(C)(C)(C)OC(NC=1C=C2C(N(N=C(C2=CC1)Br)C(C)C)=O)=O | C16H20BrN3O3
